US04983211
2-Propionyl-3-hydroxy-5-(4-(5-methylsulfonyl-2-pyridylthio)phenyl)cyclohex-2-en-1-one
To a solution of 8.0 g (0.029 mol) of 3-hydroxy-5-(4-mercaptophenyl)-2-propionyl-cyclohex-2-en-1-one in 150 mL of acetonitrile was added 6.80 g (0.0290 mol) of 2,5-bis(methylsulfonyl)pyridine and 8.0 g (0.0579 mol) of powdered potassium carbonate. The mixture was heated at reflux for 3 hours and cooled. The mixture was diluted with 500 mL of water and 50 mL of 1.0N NaOH and filtered through Celite®. The filtrate was acidified (pH 2) with concentrated HCl and extracted 4 times with 300 mL of methylene chloride. The organic layer was washed twice with 150 mL portions of water and dried over MgSO4. The solvent was removed in vacuo leaving 10.4 g (83 percent of theoretical) of the crude product which was purified by column chromatography using methylene chloride as the eluent. Recrystallization of the crude from ethanol gave the above named product in a yield of 5.10 g (41 percent of theoretical). The product melted at 167°-174° C.; 1H NMR (CF3CO2H): δ 1.25 (t, 3H, CH3CH2 --), 2.8-3.7 (m, 10H, ring protons and CH3SO2 --, CH3CH2 --), 7.3-8.9 (m, 7H, ArH).

reactant | 3-hydroxy-5-(4-mercaptophenyl)-2-propionyl-cyclohex-2-en-1-one | 0.029 mol, 8.0 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)S)=O)C(CC)=O | C15H16O3S
reactant | 2,5-bis(methylsulfonyl)pyridine | 0.0290 mol, 6.80 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | potassium carbonate | 0.0579 mol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
solvent | NaOH | 1.0N, 50 mL | [OH-].[Na+]
product | 2-Propionyl-3-hydroxy-5-(4-(5-methylsulfonyl-2-pyridylthio)phenyl)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)SC1=NC=C(C=C1)S(=O)(=O)C)=O | C21H21NO5S2
